US20010053779A1
A mixture comprising N-(4-amino-3-nitrophenyl)guanidine hydrochloride (12.0 g, 51.8 mmol), 10% palladium on carbon (1.0 g), tetrahydrofuran (100 mL) and methanol (100 mL) was hydrogenated at one atmosphere, filtered and concentration in vacuo to provide N-(3,4-diaminophenyl)guanidine hydrochloride (10.3 g, 98% yield) as a dark solid; 1H-NMR (300 MHz, DMSO-d6): 9.4 (s), 7.2 (s), 6.5 (d), 6.3 (s), 6.2 (d), 4.7 (s).

reactant | N-(4-amino-3-nitrophenyl)guanidine hydrochloride | 51.8 mmol, 12.0 g | Cl.NC1=C(C=C(C=C1)NC(=N)N)[N+](=O)[O-]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | N-(3,4-diaminophenyl)guanidine hydrochloride | 10.3 g, 98% yield | Cl.NC=1C=C(C=CC1N)NC(=N)N | InChI=1S/C7H11N5.ClH/c8-5-2-1-4(3-6(5)9)12-7(10)11;/h1-3H,8-9H2,(H4,10,11,12);1H
